US04450162
4-(4-Chloroanilino)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Compound No. 3)
To 3.1 g (0.02 mole) of 4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine were added 5.1 g (0.04 mole) of p-chloroaniline and about 10 ml of ethanol; the mixture was then heated at 130° C. for 5-10 minutes. The reaction mixture quickly became a solution and then produced crystals of the hydrochloride of the desired product on being allowed to cool.

reactant | 4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.02 mole, 3.1 g | ClC=1C2=C(N=CN1)CCC2 | C7H7ClN2
reactant | p-chloroaniline | 0.04 mole, 5.1 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | ethanol | about 10 ml | C(C)O | C2H6O
product | 4-(4-Chloroanilino)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | ClC1=CC=C(NC=2C3=C(N=CN2)CCC3)C=C1 | C13H12ClN3
